US06117873
a) N-(2,3-Dimethoxy-7-nitroquinoxalin-5-ylmethyl)-4-(dimethylphosphono)butyramide
163 mg (0.851 mmol) of N-(dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride are added at room temperature to a solution of 150 mg (0.568 mmol) of 5-aminomethyl-2,3-dimethoxy-7-nitroquinoxaline and 165 mg (0.738 mmol) of 4-(dimethylphosphono)butyric acid in 3 ml of methylene chloride and the mixture is stirred for 30 hours. The mixture is then diluted with methylene chloride and washed with 0.2N hydrochloric acid and brine and concentrated on a rotary evaporator, and the residue is dried in a high vacuum. The title compound is obtained as a yellow resin.

reactant | N-(dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.851 mmol, 163 mg | Cl.CN(C)CCCN=C=NCC
reactant | 5-aminomethyl-2,3-dimethoxy-7-nitroquinoxaline | 0.568 mmol, 150 mg | NCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H12N4O4
reactant | 4-(dimethylphosphono)butyric acid | 0.738 mmol, 165 mg | COP(=O)(OC)CCCC(=O)O | C6H13O5P
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-(2,3-Dimethoxy-7-nitroquinoxalin-5-ylmethyl)-4-(dimethylphosphono)butyramide | COC1=NC2=CC(=CC(=C2N=C1OC)CNC(CCCP(=O)(OC)OC)=O)[N+](=O)[O-] | C17H23N4O8P
